US05866568
(2-Carboxy-2-methylpropyl)phenylboronic acid (608 mg), 2-chloro-N-isobutoxycarbonyl-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide (1.03 g) and sodium carbonate (583 mg) were added to a mixture of toluene (25 ml) ethanol (25 ml) and water (10 ml). The mixture was deoxygenated by alternatively bubbling argon through and evacuating (3 cycles) and tetrakis(triphenylphosphine)palladium(0) (100 mgs) was added. The reaction mixture was heated to 85° C. for 18 hours, cooled to ambient temperature and partitioned between water (15 ml) and ethyl acetate (25 ml). The organic phase was extracted with saturated aqueous sodium carbonate solution (15 ml) and the combined aqueous phases were washed with ethyl acetate (15 ml). The aqueous phase was acidified with 2M hydrochloric acid to pH 1 and extracted with ethyl acetate (3×30 ml). The combined organic extracts were dried (MgSO4) and evaporated to give 2-[4-(2-carboxy-2-methylpropyl)phenyl]-N-(isobutoxycarbonyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide (495 mg); 1H NMR (d6 -DMSO): 0.6 (d, 6 H), 1.10 (s, 6 H), 1.51-1.69 (m, 1 H), 2.52 (s-partly obscured by DMSO), 2.87 (s, 2 H), 3.82 (d, 2 H), 3.95 (s, 3 H), 7.20 (d, 2 H), 7.43 (d, 2 H), 7.79 (dd, 1 H), 8.16 (s, 1 H), 8.84-8.97 (m, 2 H); mass spectum (+ve ESP) 557.2 (M+H)+.

reactant | (2-Carboxy-2-methylpropyl)phenylboronic acid | 608 mg | C(=O)(O)C(COB(O)C1=CC=CC=C1)(C)C | C11H15BO4
reactant | 2-chloro-N-isobutoxycarbonyl-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide | 1.03 g | ClC1=NC=CC=C1S(=O)(=O)N(C1=NC=C(N=C1OC)C)C(=O)OCC(C)C | C16H19ClN4O5S
reactant | sodium carbonate | 583 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 10 ml | O | H2O
product | 2-[4-(2-carboxy-2-methylpropyl)phenyl]-N-(isobutoxycarbonyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide | 495 mg | C(=O)(O)C(CC1=CC=C(C=C1)C1=NC=CC=C1S(=O)(=O)N(C1=NC=C(N=C1OC)C)C(=O)OCC(C)C)(C)C | C27H32N4O7S
